US08304557B2
N-[3-({2-[(cyclopropylcarbamoyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-6-methylpyridine-2-carboxamide
To a solution of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide (300 mg, 0.835 mmol) and N,N-diisopropylethylamine (286 μL, 1.67 mmol) in tetrahydrofuran (5 mL) was added 2,2,2-trichloroethylchlorocarbonate (130 μL, 0.944 mmol), and the mixture was stirred at room temperature for 50 min. N,N-Dimethylformamide (5 mL) and cyclopropaneamine (290 μL, 4.19 mmol) were added to the reaction mixture, and the mixture was stirred at 80° C. for 11 hr. The reaction mixture was concentrated under reduced pressure, diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (0%→100% ethyl acetate-hexane) to give the title compound (51.0 mg, 14%) as a white solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide | 0.835 mmol, 300 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC(=CC=C2)C)C1 | C20H17N5O2
reactant | N,N-diisopropylethylamine | 1.67 mmol, 286 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,2,2-trichloroethylchlorocarbonate | 0.944 mmol, 130 μL | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | cyclopropaneamine | 4.19 mmol, 290 μL | C1(CC1)N | C3H7N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | N,N-Dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[3-({2-[(cyclopropylcarbamoyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-6-methylpyridine-2-carboxamide | 51.0 mg, 14% | C1(CC1)NC(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC(=CC=C2)C)C1 | C24H22N6O3
